US09446034B2
To a solution of 5-chloro-2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]benzoic acid (830 mg, 1.975 mmol) in N,N-dimethylformamide (20 mL) was added HOBT (363 mg, 2.370 mmol) and EDC (454 mg, 2.370 mmol) and the reaction mixture was stirred for 30 min. To this solution was added o-methoxylamine hydrochloride (198 mg, 2.370 mmol) and after 30 min the mixture was cooled to 0° C. DIEA (1.032 mL, 5.92 mmol) was added. The reaction mixture was stirred at the room temperature over the weekend. Water (100 mL) was added followed by acetic acid (1 mL) and the solution extracted with 2×50 ml of ethyl acetate. The organic layer was washed with 2×50 ml sat KHCO3, brine, dried over MgSO4 and evaporated. The product was purified by flash column chromatography on silica gel using EtOAc:DCM (10% to 100%). 5-Chloro-2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-N-(methyloxy)benzamide (250 mg, 0.529 mmol, 26.8% yield) was isolated as a white foam. 1H NMR (400 MHz, DMSO-d6) ppm 1.27 (d, J=6.57 Hz, 6 H) 2.11 (s, 3 H) 3.71 (s, 3 H) 4.20-4.55 (m, 1 H) 5.94 (s, 1 H) 6.63 (s, 1 H) 7.59 (s, 2 H) 7.67 (s, 1 H) 7.99 (s, 1 H) 8.50 (s, 1 H) 9.43 (br. s., 1 H) 12.03 (br. s., 1 H); HPLC Rt=2.46 min, MS (ESI): 449.1, 451.1 [M+H]+.

reactant | 5-chloro-2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]benzoic acid | 1.975 mmol, 830 mg | ClC=1C=CC(=C(C(=O)O)C1)NC1=CC(=NC=C1Cl)NC1=CC(=NN1C(C)C)C | C19H19Cl2N5O2
reactant | HOBT | 2.370 mmol, 363 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 2.370 mmol, 454 mg
reactant | DIEA | 5.92 mmol, 1.032 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | Water | 100 mL | O | H2O
product | 5-Chloro-2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-N-(methyloxy)benzamide | 0.529 mmol, 250 mg, 26.8% yield | ClC=1C=CC(=C(C(=O)NOC)C1)NC1=CC(=NC=C1Cl)NC1=CC(=NN1C(C)C)C | C20H22Cl2N6O2
